US07829580B2
(E)-4-[(3-Carboxypropanoyl)sulfanyl]-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-[(1,2,3-thiadiazol-4-yl)methylidene]piperidine hydrochloride (Exemplification Compound No. 1-192)
To a solution of (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanyl-3-[(1,2,3-thiadiazol-4-yl)methylidene]piperidine hydrochloride (100 mg) in acetone (10 ml) were added anhydrous succinic acid (26 mg) and potassium iodide (45 mg) with stirring at room temperature, and the resulting mixture was stirred at room temperature for 2 hours. After stirring, anhydrous succinic acid (130 mg) and potassium iodide (180 mg) were further added, and the resulting mixture was furthermore stirred at room temperature for 1.5 hours. After the reaction mixture was evaporated in vacuo, the residue was purified by chromatography on a silica gel column using methanol and dichloromethane (1:50) as the eluent. The amorphous solid obtained was dissolved in a 4N solution of hydrogen chloride in dioxane (2 ml), and the resulting mixture was evaporated in vacuo to afford the title compound (40 mg, yield: 29%) as a colourless amorphous solid.

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanyl-3-[(1,2,3-thiadiazol-4-yl)methylidene]piperidine hydrochloride | 100 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N=NSC1)=O
reactant | succinic acid | 26 mg | C(CCC(=O)O)(=O)O | C4H6O4
reactant | potassium iodide | 45 mg | [I-].[K+]
reactant | succinic acid | 130 mg | C(CCC(=O)O)(=O)O | C4H6O4
reactant | potassium iodide | 180 mg | [I-].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (E)-4-[(3-Carboxypropanoyl)sulfanyl]-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-[(1,2,3-thiadiazol-4-yl)methylidene]piperidine hydrochloride | 40 mg, yield: 29% | Cl.C(=O)(O)CCC(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1N=NSC1 | InChI=1S/C23H24FN3O4S2.ClH/c24-18-4-2-1-3-17(18)22(23(31)14-5-6-14)27-10-9-19(33-21(30)8-7-20(28)29)15(12-27)11-16-13-32-26-25-16;/h1-4,11,13-14,19,22H,5-10,12H2,(H,28,29);1H/b15-11+;
